US04288435
Preparation of 7-[2-{N-(3-Pyridyl)carbamoylmethoxyimino}-2-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer).
To a suspension of 7-[2-{N-(3-pyridyl)carbamoylmethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.7 g.) in methanol (40 ml.) was added conc. hydrochloric acid (1.09 ml.) with stirring at room temperature followed by stirring for 2 hours at the same temperature. The reaction mixture was separated by decantation into two groups, that is, a methanol layer and viscous precipitates. The methanol layer was treated with activated charcoal and concentrated and then the residue was dissolved in water. After the solution was adjusted to pH 3 to 4 with an aqueous solution of sodium bicarbonate, the precipitates are collected by filtration to give a powder of the title compound (0.6 g.). On the other hand, the viscous precipitates were dissolved in a mixture of methanol conc. hydrochloric acid and water and the solution was stirred for an hour at room temperature, treated with activated charcoal and then concentrated. The residue was dissolved in water and thereto was added an aqueous solution of sodium bicarbonate under cooling whereby the pH was adjusted to 3 to 4. The precipitates were collected by filtration to give a powder of the title compound (1.0 g.). Total Total yield: 1.6 g. mp. 180° to 210° C.

reactant | 7-[2-{N-(3-pyridyl)carbamoylmethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.7 g | N1=CC(=CC=C1)NC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C23H21N11O7S3
reactant | hydrochloric acid | 1.09 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 7-[2-{N-(3-Pyridyl)carbamoylmethoxyimino}-2-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.6 g | N1=CC(=CC=C1)NC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)N | C22H21N11O6S3
